US06841552B1
Compounds of formula A in which Z=2,3-dihydro-2-oxo-1H-benzimidazol-1-yl and L=(N-methylene)piperidin-4-yl are prepared from amidines (V) or (VI) and [4-(2-keto-1-benzimidazolinyl)piperidin-1-yl]acetic acid. For example, 4-(2-keto-1-benzimidazolinyl)piperidine is reacted with a bromoacetic acid ester, such as ethyl bromoacetate, in the presence of an amine base, such as diisopropylethylamine, in an inert solvent such as acetonitrile, at a temperature ranging from ambient temperature to reflux, to afford ethyl [4-(2-keto-1-benzimidazolinyl)piperidin-1-yl]acetate. This ester is subjected to hydrolysis under basic conditions, for example, by treatment with sodium hydroxide in an alcoholic solution such as aqueous methanol, to yield, upon acidification with an inorganic or organic acid such as hydrochloric or acetic acid for example, [4-(2-keto-1-benzimidazolinyl)piperidin-1-yl]acetic acid. This carboxylic acid is reacted directly with amidine (V) or (VI), in the presence of an amine base, under peptide coupling conditions described above, to afford amidino benzimidazolinones (XV) of formula A in which Y=carbonyl and L=(N-methylene)piperidin-4-yl (Scheme 5).

reactant | [4-(2-keto-1-benzimidazolinyl)piperidin-1-yl]acetic acid | O=C1NC2=C(N1C1CCN(CC1)CC(=O)O)C=CC=C2 | C14H17N3O3
reactant | 4-(2-keto-1-benzimidazolinyl)piperidine | O=C1NC2=C(N1C1CCNCC1)C=CC=C2 | C12H15N3O
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
product | ethyl [4-(2-keto-1-benzimidazolinyl)piperidin-1-yl]acetate | O=C1NC2=C(N1C1CCN(CC1)CC(=O)OCC)C=CC=C2 | C16H21N3O3
